US05273975
Ethyl 2,3,6,7-tetrahydro-3-oxo-2-((1-oxopropyl)amino)- 1H,5H-benzo(ij)quinoliz-ine-2-carboxylate (compound XIIb).
A mixture of diethyl ((1-oxopropyl)amino)(8-quinolinylmethyl)-propanedioate (17.47 g, 0.047 mol) and platnium oxide (0.72 g) in glacial acetic acid (150 mL) was hydrogenated (50 lb initial pressure) until hydrogen uptake ceased (1.8 equiv). The mixture was filtered through celite and the solvent removed under reduced pressure. The product was crystallized from ethyl acetate to give 12.08 g of crystals, mp 136°-140° C. A sample was recrystallized from ethyl acetate for analysis; mp 137°-141° C. Anal. Calcd. for C18H22N2O4 ; C, 65.44; H, 6.71; N, 8.48. Found: C, 65.66; H, 6.64; N, 8.43.

reactant | diethyl ((1-oxopropyl)amino)(8-quinolinylmethyl)-propanedioate | 0.047 mol, 17.47 g | O=C(CC)NC(C(=O)OCC)(C(=O)OCC)CC=1C=CC=C2C=CC=NC12 | C20H24N2O5
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | Ethyl 2,3,6,7-tetrahydro-3-oxo-2-((1-oxopropyl)amino)- 1H,5H-benzo(ij)quinoliz-ine-2-carboxylate | 12.08 g | O=C1N2CCCC3=C2C(CC1(C(=O)OCC)NC(CC)=O)=CC=C3 | C18H22N2O4
